US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-5-fluoro-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzamide
Using a similar procedure to that described in Example 52, N-(5-chloropyridin-2-yl)-5-fluoro-2-(piperidin-4-ylmethyl)aminobenzamide (343 mg, 0.95 mmol), 4-chloropyridine hydrochloride (709 mg, 4.73 mmol), triethylamine (479 mg, 4.73 mmol), and ethanol (3 mL) yielded 100 mg (24%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-5-fluoro-2-(piperidin-4-ylmethyl)aminobenzamide | 0.95 mmol, 343 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NCC1CCNCC1)=O | C18H20ClFN4O
reactant | 4-chloropyridine hydrochloride | 4.73 mmol, 709 mg | Cl.ClC1=CC=NC=C1
reactant | triethylamine | 4.73 mmol, 479 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-(5-Chloropyridin-2-yl)-5-fluoro-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzamide | 100 mg, 24% | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NCC1CCN(CC1)C1=CC=NC=C1)=O | C23H23ClFN5O
